US05587379
Under a nitrogen atmosphere, a solution of 8.0 grams (0.048 mole) of 3-(4-methoxyphenyl)propanol and 7.9 grams (0.053 mole) of sodium iodide in 50 mL of acetone was stirred, and 5.7 mL (0.053 mole) of 1-chloroethyl chloroformate was slowly added. Upon completion of addition, the reaction mixture was heated to reflux where it was stirred for four hours. After this time the reaction mixture was cooled, and 50 mL of toluene was added. The acetone was removed by distillation after which the reaction mixture was heated for one hour at reflux in the toluene. The reaction mixture was then cooled and poured into 300 mL of water. The mixture was extracted with 200 mL of diethyl ether. The ether extract was washed with 100 mL of an aqueous 5% sodium thiosulfate solution and then with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil, and the oil was dissolved in methylene chloride and filtered through a pad of silica gel. The filtrate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel. Elution was accomplished with 40:1 petroleum ether and diethyl ether. The appropriate fractions were combined and concentrated under reduced pressure, yielding 4.3 grams of 3-(4-methoxyphenyl)propyl iodide. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(4-methoxyphenyl)propanol | 0.048 mole, 8.0 grams | COC1=CC=C(C=C1)CCCO | C10H14O2
reactant | sodium iodide | 0.053 mole, 7.9 grams | [I-].[Na+]
reactant | 1-chloroethyl chloroformate | 0.053 mole, 5.7 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 3-(4-methoxyphenyl)propyl iodide | 4.3 grams | COC1=CC=C(C=C1)CCCI | C10H13IO
